US08212032B2
To a solution of 3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxylic acid (0.324 g, 0.855 mmol) in N,N-Dimethylformamide (DMF) (25 ml) was added diisopropylethylamine (0.329 ml, 1.881 mmol) followed by 1-(4-bromo-2-chlorophenyl)methanamine (0.286 g, 0.855 mmol) and 1H-1,2,3-benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate (BOP reagent, 0.416 g, 0.940 mmol). The reaction was stirred at room temperature for 3 hours. Saturated NaHCO3 was added to the reaction, at which time white solids precipitated from solution. The solids were filtered, washed with acetonitrile, and dried to provide N-[(4-bromo-2-chlorophenyl)methyl]-3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxamide (160 mg, 0.34 mmol, 40%). MS (ES+): m/e 467, 469 [M+H]+.

reactant | 3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxylic acid | 0.855 mmol, 0.324 g | CC1=NC(=NC(=N1)NC)NC1CC(CCC1)C(=O)O | C12H19N5O2
reactant | diisopropylethylamine | 1.881 mmol, 0.329 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(4-bromo-2-chlorophenyl)methanamine | 0.855 mmol, 0.286 g | BrC1=CC(=C(C=C1)CN)Cl | C7H7BrClN
reactant | 1H-1,2,3-benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate | 0.940 mmol, 0.416 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | N,N-Dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | N-[(4-bromo-2-chlorophenyl)methyl]-3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxamide | 0.34 mmol, 160 mg, 40% | BrC1=CC(=C(C=C1)CNC(=O)C1CC(CCC1)NC1=NC(=NC(=N1)C)NC)Cl | C19H24BrClN6O
